US07875639B2
1-adamantanecarbonyl chloride
A solution of 1-adamantanecarboxylic acid (0.27 g, 1.5 mmol) in 5 mL of thionyl chloride was warmed to reflux and stirred for 2 hours. The mixture was cooled to ambient temperature and concentrated under reduced pressure. The residue was diluted with 5 mL of toluene and concentrated under reduced pressure three times to afford the title compound, which was used without additional purification or characterization.

reactant | 1-adamantanecarboxylic acid | 1.5 mmol, 0.27 g | C12(CC3CC(CC(C1)C3)C2)C(=O)O | C11H16O2
reactant | thionyl chloride | 5 mL | S(=O)(Cl)Cl | Cl2OS
product | 1-adamantanecarbonyl chloride | C12(CC3CC(CC(C1)C3)C2)C(=O)Cl | C11H15ClO
